US06384028B1
To a mixture of (R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidinecarboxylic acid (2 g) and β-alanine ethyl ester hydrochloride (0.84 g) and 1-hydroxybenzotriazole (0.74 g) in dimethylformamide (20 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (1 ml) at 0° C. The reaction mixture was stirred overnight at room temperature, and then poured into water. The whole was extracted with ethyl acetate, washed with aqueous saturated NaHCO3, water, and brine, dried over MgSO4, and evaporated in vacuo, subsequently. The residue was purified by column chromatography on silica gel eluting with CHCl3-MeOH (99:1) to give N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-β-alanine ethyl ester as a colorless oil (2.54 g).

reactant | (R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidinecarboxylic acid | 2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)/C=C/C(=O)N1C[C@@H](CCC1)C(=O)O | C19H30N2O5
reactant | β-alanine ethyl ester hydrochloride | 0.84 g | Cl.C(C)OC(CCN)=O
reactant | 1-hydroxybenzotriazole | 0.74 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 1 ml | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-β-alanine ethyl ester | 2.54 g | C(C)OC(CCNC(=O)[C@H]1CN(CCC1)C(\C=C\C1CCN(CC1)C(=O)OC(C)(C)C)=O)=O | C24H39N3O6
